US08426449B2
Step 1: [3-(4-Bromo-2-formyl-phenoxy)-phenyl]-acetic acid methyl ester
To [3-(4-bromo-2-formyl-phenoxy)-phenyl]-acetic acid (1 g, 2.98 mmol) in MeOH (10 mL) was added thionyl chloride (0.43 mL, 5.97 mmol), and the reaction was heated to 65° C. for 2 hours, and then stirred overnight at room temperature. The mixture was neutralized with 1N aqueous NaOH and extracted three times with EtOAc. The combined organic layer was washed with H2O, dried, and concentrated, and the residue was purified by silica gel chromatography (20-40% EtOAc in hexanes) to give the title compound, as well as the corresponding acetal.

reactant | [3-(4-bromo-2-formyl-phenoxy)-phenyl]-acetic acid | 2.98 mmol, 1 g | BrC1=CC(=C(OC=2C=C(C=CC2)CC(=O)O)C=C1)C=O | C15H11BrO4
reactant | thionyl chloride | 5.97 mmol, 0.43 mL | S(=O)(Cl)Cl | Cl2OS
reactant | NaOH | 1N | [OH-].[Na+]
reactant | MeOH | 10 mL | CO | CH4O
product | [3-(4-Bromo-2-formyl-phenoxy)-phenyl]-acetic acid methyl ester | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)Br)C=O)=O | C16H13BrO4
